US07582645B2
10% Degussa Pd on carbon (40 mg, 0.38 mmol) was flushed with nitrogen then diluted in ethanol (5 mL). 4-(4-Nitro-benzyl)-pyridine-2-carbonitrile (250 mg, 1.05 mmol) in ethanol (5 mL) and pyridine (42 mg, 0.52 mmol) was subsequently added, and the mixture was flushed again with nitrogen prior to placing a hydrogen balloon on the flask. The mixture was stirred at rt overnight then filtered through Celite® and concentrated. The residue was dissolved in ethyl acetate and filtered through a silica gel plug, eluting with 50-100% ethyl acetate in hexanes, to give 4-(4-amino-benzyl)-pyridine-2-carbonitrile (134 mg, 61%). 1H NMR (CHCl3-d) δ 8.55 (d, J=5.2 Hz, 1H), 7.46 (s, 1H), 7.30 (d, J=4.8 Hz, 1H), 6.93 (d, J=8.3 Hz, 2H), 6.66 (d, J=8.2 Hz, 2H), 3.91 (s, 2H).

reactant | 4-(4-Nitro-benzyl)-pyridine-2-carbonitrile | 1.05 mmol, 250 mg | [N+](=O)([O-])C1=CC=C(CC2=CC(=NC=C2)C#N)C=C1 | C13H9N3O2
reactant | pyridine | 0.52 mmol, 42 mg | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | ethanol | 5 mL | C(C)O | C2H6O
catalyst | Pd on carbon | 0.38 mmol, 40 mg | [Pd] | Pd
product | 4-(4-amino-benzyl)-pyridine-2-carbonitrile | 134 mg, 61% | NC1=CC=C(CC2=CC(=NC=C2)C#N)C=C1 | C13H11N3
